US09382197B2
(R)-methyl 4-(1-((1-methylcyclohexyl)methylamino)ethyl)benzoate
To a solution of (R)-methyl 4-(1-aminoethyl)benzoate (0.12 g, 0.67 mmol) in methanol (2.97 mL, 73.33 mmol) was added 1-methylcyclohexane-1-carboxaldehyde (0.093 g, 0.74 mmol) and acetic acid (0.152 mL, 2.67 mmol). The reaction was stirred for 1 hour at room temperature whereupon sodium cyanoborohydride (63.1 mg, 1.00 mmol) was added and the mixture further stirred at room temperature overnight. The solvent was evaporated and the residual sodium cyanoborohydride quenched with saturated aqueous NaHCO3. The mixture was extracted into ethyl acetate, the organic layer washed with brine and the solvent evaporated to dryness. The residue obtained was purified via silica chromatography (0-5% MeOH/DCM) to afford the title compound as a colorless oil (123.0 mg, 63%). LC-MS: (FA) ES+ 290.

reactant | (R)-methyl 4-(1-aminoethyl)benzoate | 0.67 mmol, 0.12 g | N[C@H](C)C1=CC=C(C(=O)OC)C=C1 | C10H13NO2
reactant | methanol | 73.33 mmol, 2.97 mL | CO | CH4O
reactant | 1-methylcyclohexane-1-carboxaldehyde | 0.74 mmol, 0.093 g | CC1(CCCCC1)C=O | C8H14O
reactant | acetic acid | 2.67 mmol, 0.152 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.00 mmol, 63.1 mg | C(#N)[BH3-].[Na+]
product | (R)-methyl 4-(1-((1-methylcyclohexyl)methylamino)ethyl)benzoate | 123.0 mg, 63% | CC1(CCCCC1)CN[C@H](C)C1=CC=C(C(=O)OC)C=C1 | C18H27NO2
